US08008298B2
Dichloromethane (1 mL) was added to a mixture of EDCI (0.181 g, 0.945 mmol), HOBT monohydrate (0.128 g, 0.945 mmol), cyanoacetic acid (0.060 g, 0.71 mmol), and 2,2-Dimethyl-1-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one (0.1718 g, 0.473 mmol) under argon. Diisopropylethylamine (DIPEA, 0.41 mL; 0.304 g, 2.36 mmol) was subsequently added and the reaction was stirred overnight at ambient temperature. The reaction was quenched with saturated aqueous NaHCO3 and extracted 3 times with dichloromethane. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. Preparative thin layer chromatography afforded 0.0402 g (20% yield) of 3-(4-{3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-3-oxo-propionitrile as an off-white solid.

reactant | EDCI | 0.945 mmol, 0.181 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 0.945 mmol, 0.128 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | cyanoacetic acid | 0.71 mmol, 0.060 g | C(#N)CC(=O)O | C3H3NO2
reactant | 2,2-Dimethyl-1-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.473 mmol, 0.1718 g | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CCNCC2)(C)C | C21H25N5O
reactant | Diisopropylethylamine | 2.36 mmol, 0.41 mL, 0.304 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | Dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(4-{3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-3-oxo-propionitrile | 0.0402 g, 20% yield | CC(C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C=CC2)N2CCN(CC2)C(CC#N)=O)(C)C | C24H26N6O2
